US08013186B2
NaH (60% in oil, 1.54 g, 4.9 mmol) was washed several times with pentane, under nitrogen and then suspended in anhydrous ethyl ether (10 m) and cooled at 0° C. A solution of 2,2-difluoro-1(R)-(4-fluorophenyl)-2-(4-methylsulfanylphenoxy)ethanol in ethyl ether (10 ml) was added. After stirring the reaction mixture for 15 min, trifluoromethylsulfonyl chloride was added and the resulting mixture was stirred for 2 h at 0° C. The reaction mixture was diluted with hexanes (20 ml) and washed with saturated solution of NaHCO3 and brine. After drying over magnesium sulfate, the solution was concentrated to give trifluoromethanesulfonic acid 2,2-difluoro-1(R)-(4-fluorophenyl)-2-(4-methylsulfanylphenoxy)ethyl ester (1.70 g, 77%) as an oil.

reactant | NaH | 4.9 mmol, 1.54 g | [H-].[Na+]
reactant | 2,2-difluoro-1(R)-(4-fluorophenyl)-2-(4-methylsulfanylphenoxy)ethanol | FC([C@H](O)C1=CC=C(C=C1)F)(OC1=CC=C(C=C1)SC)F | C15H13F3O2S
reactant | trifluoromethylsulfonyl chloride | FC(S(=O)(=O)Cl)(F)F | CClF3O2S
solvent | pentane | CCCCC | C5H12
solvent | ethyl ether | C(C)OCC | C4H10O
solvent | ethyl ether | 10 ml | C(C)OCC | C4H10O
product | trifluoromethanesulfonic acid 2,2-difluoro-1(R)-(4-fluorophenyl)-2-(4-methylsulfanylphenoxy)ethyl ester | 1.70 g, 77% | FC([C@@H](C1=CC=C(C=C1)F)OS(=O)(=O)C(F)(F)F)(OC1=CC=C(C=C1)SC)F | C16H12F6O4S2
